US04243805
A solution of 19 g [4-fluoro-2-(4-nitrophenylthio)phenyl] acetic acid in 60 ml of acetic acid was slowly added dropwise into a boiling mixture of 300 ml water and 30 g iron powder. The mixture was then stirred and refluxed for 6 hours. After cooling, 200 ml of a 20% sodium hydroxide solution were added, the solution filtered and the filtrate acidified with acetic acid. After standing overnight, the separated product was filtered, washed with a small quantity of water and dried in vacuo. There were obtained 9.5 g of crude [2-(4-aminophenylthio)-4-fluorophenyl]acetic acid melting at 151°-155° C. After a single crystallization from a mixture of benzene and petroleum ether, the product was pure and melted at 154°-156° C.

reactant | [4-fluoro-2-(4-nitrophenylthio)phenyl] acetic acid | 19 g | FC1=CC(=C(C=C1)CC(=O)O)SC1=CC=C(C=C1)[N+](=O)[O-] | C14H10FNO4S
reactant | water | 300 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 30 g | [Fe] | Fe
product | [2-(4-aminophenylthio)-4-fluorophenyl]acetic acid | 9.5 g | NC1=CC=C(C=C1)SC1=C(C=CC(=C1)F)CC(=O)O | C14H12FNO2S
